************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G2_AOI21_N3
* View Name:     schematic
* Netlisted on:  Mar  2 11:06:30 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G2_AOI21_N3
* View Name:    schematic
************************************************************************

.SUBCKT G2_AOI21_N3 A B C Vdd Vss Z
*.PININFO A:I B:I C:I Z:O Vdd:B Vss:B
XI12 Z Vss B A Vdd / TIGFET_PCELL_SP15CP15_N3
XI15 Z Vdd C Vdd Vss / TIGFET_PCELL_SP15CP15_N3
XI13 Z Vss C Vss Vdd / TIGFET_PCELL_SP15CP15_N3
XI14 Z Vdd B C Vss / TIGFET_PCELL_SP15CP15_N3
.ENDS

